US07964643B2
4′-Methylthiobiphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide (ABD-258)
Using a method analogous to that described in Example 40, 4-bromophenyl-sulfonic acid-(4-hydroxybutyl)-amide and 4-methylthiophenyl boronic acid were reacted to give the title compound as a white solid. δC (DMSO, 62.9 MHz): 14.5, 25.9, 29.6, 42.6, 60.2, 125.9 126.2, 127.1, 127.3, 127.5, 134.8, 139.1 and 143.1.

reactant | 4-bromophenyl-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=CC=C(C=C1)Br | C10H14BrNO3S
reactant | 4-methylthiophenyl boronic acid | CSC1=CC=C(C=C1)B(O)O | C7H9BO2S
product | 4′-Methylthiobiphenyl-4-sulfonic acid-(4-hydroxybutyl)-amide | OCCCCNS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)SC | C17H21NO3S2
